US05087640
To a solution of 21.0 g of N-t-butyl-N'-(3,5-dichlorophenyl)thiourea produced in Example A-1 in 200 ml of THF were added 21.4 g of DCC and 0.73 g of triethylamine. The mixture was refluxed for 3 hours and evaporated in vacuo. The residue was extracted with petroleum ether. The extract was evaporated in vacuo to give N-t-butyl-N'-(3,5-dichlorophenyl)carbodiimide as an oil.

reactant | N-t-butyl-N'-(3,5-dichlorophenyl)thiourea | 21.0 g | C(C)(C)(C)NC(=S)NC1=CC(=CC(=C1)Cl)Cl | C11H14Cl2N2S
reactant | DCC | 21.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | triethylamine | 0.73 g | C(C)N(CC)CC | C6H15N
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | N-t-butyl-N'-(3,5-dichlorophenyl)carbodiimide | C(C)(C)(C)N=C=NC1=CC(=CC(=C1)Cl)Cl | C11H12Cl2N2
